spice
* NMOS transistor
M1 2 6 3 3 NMOS

* PMOS transistor
M2 3 5 4 4 PMOS

* Resistors
RD1 3 0 100k
RD2 2 4 100k

* Voltage Source
VDD 2 0 DC 5V

* Additional input sources if needed
Vin 6 0 AC 1V
Vb 5 0 DC 1V

* Analysis commands
.control
run
.endc